US04363910
6.5 g. of (2,2-dimethyl-1,2-dihydroquinoline-4-yl)-methylsulfonic acid sodium salt trihydrate in 20 ml. of water are passed through a chromatographic column filled with 120 g of DOWEX 50 WX 10 cation exchanging resin. The column is washed with distilled water and the eluted solution is evaporated. The precipitated substance is filtered, washed with ethyl acetate and dried at room temperature. 4.5 g. (88%) of (2,2-dimethyl-1,2-dihydroquinoline-4-yl)-methylsulfonic acid are obtained, melting at 256° to 260° C.

reactant | (2,2-dimethyl-1,2-dihydroquinoline-4-yl)-methylsulfonic acid sodium salt trihydrate | O.O.O.[Na].CC1(NC2=CC=CC=C2C(=C1)OS(=O)(=O)C)C
solvent | water | O | H2O
product | (2,2-dimethyl-1,2-dihydroquinoline-4-yl)-methylsulfonic acid | 88% | CC1(NC2=CC=CC=C2C(=C1)OS(=O)(=O)C)C | C12H15NO3S
